US08044041B2
Synthesis of 4-Cyano-1-dimethylamino-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide
A mixture of 1-dimethylamino-4-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (40 mg, 0.082 mmol), pyridine (3 mL) and CuCN (22 mg, 0.247 mmol) was heated to 85° C. for 2 h and concentrated. Column chromatography (Hexanes/EtOAc) afforded the desired compound (14 mg, 44.2%) as a yellow solid. 1H-NMR (CDCl3) δ: 3.45 (s, 6H), 7.40-7.44 (m, 1H), 7.49 (t, 1H), 8.01 (d, 1H), 8.12 (s, 1H), 8.23 (d, 1H), 8.31 (s, 1H), 8.38 (d, 1H), 9.13 (s, 1H). m/z (M+1) 386.20.

reactant | 1-dimethylamino-4-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.082 mmol, 40 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)N(C)C)I)(F)F | C18H14F3IN4O
reactant | CuCN | 0.247 mmol, 22 mg | C(#N)[Cu]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 4-Cyano-1-dimethylamino-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 14 mg, 44.2% | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)N(C)C)C#N)(F)F | C19H14F3N5O
